US05300660
7E. (S)-1-Ethyl-2-pyrrolidine carboxamide
To a solution of (S)-2-pyrrolidine carboxamide (13.2 g, 116 mmol) in ethanol (140 ml) K2CO3 (17.6 g, 128 mmol) and triethylamine (1.2 ml, 8.6 mmol) were added. The mixture was heated to 30 C. and stirred vigorously. Then ethylbromide (10.4 ml, 138 mmol) were added during 0.5 hours. After 30 hours the mixture was diluted with toluene (50 ml) and washed with water (50 ml). The organic layer was concentrated at reduced pressure. The residue was dissolved in toluene (150 ml) and washed with a small amount of aqueous sodium hydroxide, dried with magnesium sulfate, and evaporated to dryness in vacuo. Yield 10.7 g (65%).

reactant | (S)-2-pyrrolidine carboxamide | 116 mmol, 13.2 g | N1[C@@H](CCC1)C(=O)N | C5H10N2O
reactant | ethanol | 128 mmol, 140 ml, 17.6 g | C(C)O | C2H6O
reactant | triethylamine | 8.6 mmol, 1.2 ml | C(C)N(CC)CC | C6H15N
reactant | ethylbromide | 138 mmol, 10.4 ml | C(C)Br | C2H5Br
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | (S)-1-Ethyl-2-pyrrolidine carboxamide | C(C)N1[C@@H](CCC1)C(=O)N | C7H14N2O
